* Z:\home\bean\RadioNotes\Draft5.asc
Vgen1 N006 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) Rser=0
R1 N007 N006 180
Q1 N005 N008 P001 0 2N2222
R2 N002 N005 500
V1 N002 0 12
R4 N002 N008 20k
R5 N008 0 1k
Q2 N003 N004 N009 0 2N3904
C1 N004 NC_01 100p
R6 N001 N004 16k
R7 N004 0 1k
R8 N009 0 10
R9 N001 N003 150
C2 N008 N007 100p
R3 P001 0 5
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.param freq 28074000
.tran 0 100u 0u
* PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq})
.backanno
.end
